US09029568B2
Into a 5 L round-bottom flask fitted with a thermometer, a nitrogen-introducing tube, and a stirrer were charged 254 g of pentaerythritol and 2,500 g of N,N-dimethylformamide, and they were heated and dissolved at 80° C. After cooling to 25° C., 195 g of 2,2-dimethoxypropane and 3.6 g of p-toluenesulfonic acid monohydrate were placed therein and, with introduction of nitrogen thereinto, a reaction was carried out at 25° C. without further treatment. Neutralization was performed by adding 9.5 g of triethylamine and the reaction solution was concentrated. After concentration, the resulting powder was dispersed in 1 kg of hexane, followed by stirring and filtration. The hexane-washing step was repeated four times. The resulting cake was dissolved in 1 kg of ethyl acetate at 50° C. and, after insoluble matter was filtrated, 250 g of Kyoward 200B was added to the filtrate and adsorption treatment was performed at 50° C. for 1 hour. The filtrate was concentrated to obtain 2,2-dimethyl-5,5-bis(hydroxymethyl)-1,3-dioxane.

reactant | pentaerythritol | 254 g | OCC(CO)(CO)CO | C5H12O4
reactant | N,N-dimethylformamide | 2,500 g | CN(C=O)C | C3H7NO
reactant | 2,2-dimethoxypropane | 195 g | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 3.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 9.5 g | C(C)N(CC)CC | C6H15N
product | 2,2-dimethyl-5,5-bis(hydroxymethyl)-1,3-dioxane | CC1(OCC(CO1)(CO)CO)C | C8H16O4
